US04250177
10-Oxo-10H-pyridazino(6,1-b)quinazoline-2-carboxylic acid.
A precipitate is obtained when a mixture of methyl anthraniliate (4.78 g, 31.6 mmol), 6-chloropyridazine-3-carboxylic acid (5.0 g, 31.6 mmol) and 50 ml of acetic acid is heated at reflux for 21 hrs; m.p. 246°-50° C. This crude material is recyrstallized from pyridine giving the anlytical sample, m.p. 239°-43° C. (dec.).

reactant | 6-chloropyridazine-3-carboxylic acid | 31.6 mmol, 5.0 g | ClC1=CC=C(N=N1)C(=O)O | C5H3ClN2O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 10-Oxo-10H-pyridazino(6,1-b)quinazoline-2-carboxylic acid | O=C1N2C(=NC=3C=CC=CC13)C=CC(=N2)C(=O)O | C12H7N3O3
